US07816520B2
Synthesis of 1,2-bis(4-tert-butyl-phenyl)-2-hydroxy-ethanone (WP101)
A solution of potassium cyanide (4.61 g, 70.89 mmol) in water (14 ml) is slowly added to a solution of 4-tert-butylbenzaldehyde (115 g, 708.9 mmol) in a methanol (300 ml)/water (40 ml) mixture. The mixture is stirred at 90° C. for 40 hours. After cooling, the methanol is concentrated under reduced pressure and the residue is taken up in dichloromethane and water. After three extractions with dichloromethane, the recombined organic phases are dried on magnesium sulfate, filtered and concentrated under reduced pressure. Pentane (approximately 800 ml) is then added, and the resulting precipitate is filtered, washed several times in pentane and dried to yield 55.23 g (49%, not optimized) of pure product in the form of a white solid. Analyses identical to the literature.

reactant | potassium cyanide | 70.89 mmol, 4.61 g | [C-]#N.[K+]
reactant | 4-tert-butylbenzaldehyde | 708.9 mmol, 115 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | methanol | 300 ml | CO | CH4O
solvent | water | 14 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 1,2-bis(4-tert-butyl-phenyl)-2-hydroxy-ethanone | C(C)(C)(C)C1=CC=C(C=C1)C(C(O)C1=CC=C(C=C1)C(C)(C)C)=O | C22H28O2
